US08003805B2
[6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazol-5-yl]-pyridin-2-yl-methanol (10w)
To a solution of 2-bromopyridine (0.10 mL, 1.04 mmol) in THF (3 mL) at −78° C. is added n-BuLi (0.39 mL, 0.98 mmol, 2.5 M solution in hexane). After stirring for 10 minutes at −78° C., a solution of 6-(4-bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbaldehyde 10 h (25 mg, 0.064 mmol) in THF (1 mL) is added. The resulting reaction mixture is stirred for 1.5 hours at −78° C., quenched with saturated aqueous NH4Cl, and extracted with EtOAc. The organic layer is dried over MgSO4, filtered, concentrated in vacuo, and purified by flash chromatography (2.5% MeOH in CH2Cl2) to afford the desired product (18 mg, 62%): MS APCI (+) m/z 461, 463 (M+, Br pattern) detected; 1H NMR (400 MHz, CD3OD) δ 8.31 (d, 1H), 8.16 (s, 1H), 7.65 (m, 3H), 7.38 (d, 1H), 7.10 (m, 1H), 7.00 (dd, 1H), 6.11 (dd, 1H), 6.05 (s, 1H), 3.94 (s, 3H); 19F NMR (376 MHz, CD3OD) −135.79 (s).

reactant | 2-bromopyridine | 1.04 mmol, 0.10 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-BuLi | 0.98 mmol, 2.5 M, 0.39 mL | [Li]CCCC
reactant | 6-(4-bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbaldehyde | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C=O)Cl | C15H10BrClFN3O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | [6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazol-5-yl]-pyridin-2-yl-methanol | 18 mg, 62% | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C(O)C1=NC=CC=C1)Cl | C20H15BrClFN4O
